US07037925B2
Methyl 2-methyl-3-nitrobenzyl ether
To a solution of sodium (0.10 g, 4.3 mmol) in methanol (40 ml) was added 2-methyl-3-nitrobenzylchloride (0.50 g, 2.7 mmol) and catalytic amounts of LiI under nitrogen. After the reaction occurred at 40° C. over night, the solvent evaporated and the residue was purified by chromatography (heptane/EtOAc) to give the title compound 450 mg, (92%) as a yellow oil.

reactant | sodium | 4.3 mmol, 0.10 g | [Na] | Na
reactant | 2-methyl-3-nitrobenzylchloride | 2.7 mmol, 0.50 g | CC1=C(CCl)C=CC=C1[N+](=O)[O-] | C8H8ClNO2
reactant | LiI | [Li+].[I-]
reactant | methanol | 40 ml | CO | CH4O
product | Methyl 2-methyl-3-nitrobenzyl ether | 450 mg, 92% | CC1=C(COC)C=CC=C1[N+](=O)[O-] | C9H11NO3
